US20010023250A1
A mixture of 3-methyl-2-cyclohexenone (4 g, 36.36 mmol), toluenesulfonic acid (100 mg) and ethylene glycol (7 mL) in 100 mL of toluene is refluxed overnight and water formed is removed by Dean-Stark trap. The residue after concentration is chromatographed on silica gel (10% ethyl acetate/hexane) to give 3.36 g (62%) of 7-methyl-1, 4-dioxa-spiro[4.5]dec-7-ene.

reactant | 3-methyl-2-cyclohexenone | 36.36 mmol, 4 g | CC1=CC(CCC1)=O | C7H10O
reactant | toluenesulfonic acid | 100 mg | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 7 mL | C(CO)O | C2H6O2
reactant | water | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 7-methyl-1, 4-dioxa-spiro[4.5]dec-7-ene | 3.36 g, 62% | CC=1CC2(OCCO2)CCC1 | C9H14O2
